* C:\Users\gugan\Documents\GitHub\Wearable-BioNode\Design Docs\Simulation (LTspice)\TCXO PDN Filter.asc
* Generated by LTspice 26.0.1 for Windows.
X§C1_100nF 1V8_TCXO 0 GRM033R61C104KE18_DC0V_25degC ;§pnba A)B
X§C2_15pF 1V8_TCXO P001 GCQ1555C1H200JB01_DC0V_25degC ;§pnba A)B
X§C3_560pF 1V8_TCXO P002 GRM1555CYA103GE01_DC0V_25degC ;§pnba A)B
V1 N001 0 1.8V AC 1 Rser=0
R1 1V8_TCXO N001 3
R5 P001 0 0.2
R6 P002 0 0.2
.include GRM033R61C104KE18_DC0V_25degC.mod
.include GCQ1555C1H200JB01_DC0V_25degC.mod
.include GRM1555CYA103GE01_DC0V_25degC.mod
.ac dec 1000 100 4GHz
.backanno
.end
